data/rdb19/train.csv
rxn,smiles,ea
5317,[C:1]([C:2]([C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:28])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21](=[C:22][N:23]([C:24](=[O:25])[H:30])[H:29])([H:26])[H:27],33.693804314534646
600,[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21]#[N:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])([H:12])[C:19]([C:18]([H:23])([H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21]#[N:22],69.3447539077024
2386,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])[H:18])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[H:20])([H:5])([H:6])[H:7].[C:8](=[C:9]([c:10]1[c:11]([H:19])[c:12][c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])[H:18])([H:16])[H:17],25.239116194396047
1356,[C:10]([C:11]([H:12])[H:13])([H:14])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10](=[C:11]([H:12])[H:13])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:14])[H:7])[H:6],29.529567235906143
2050,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:6][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])[H:7],37.04836310859537
4583,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12].[C:20]([H:33])([H:34])[H:35],69.6323464740417
2710,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][O:23][C:22]([O:21][C:20]([H:27])([H:28])[H:29])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34],34.38180400087731
4007,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:4]([H:15])([H:16])([H:17])[C:26]([C:25]([C:24]([H:31])([H:32])[H:33])([H:34])[H:35])([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36],52.60660722461762
2779,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:21]([C:20]([H:28])[H:29])([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:13])[H:14])([H:10])([H:11])[H:12],19.09496774605941
5237,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])([H:12])([H:13])[H:14].[H:15][C:26]([N:25]([C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])[H:37])([O:27])[H:38],48.27498528553406
3823,[C:13]([C:14]([C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9],55.00002138497075
